US06228859B1
6-Amino-3-(3-cyclopentyloxy-4-methoxy-benzyl)-8-isopropyl-3H-purine
3-(3-Cyclopentyloxy-4-methoxy-benzyl)-8-isopropyl-hypoxanthine (5.74 g, 15 mmole) and phosphorus oxychloride (60 ml) were heated to 65° C. for 30 minutes. The reaction mixture was evaporated to dryness in vacuo and the residue evaporated twice with toluene. The crude chloropurine (15 mmole) was dissolved in THF (80ml ) and 32% aqueous ammonia solution (36.2 ml) and heated together with liquid ammonia (50 g) in a 450 ml pressure reactor to 60° C. (340 psi) for 4 hours. The solvents were evaporated in vacuo and the residue suspended in a mixture of diethyl ether and 1 M NaOH solution. The solid was collected and crystallized from ethyl acetate to give the title compound, 3.92 g (68.5 %) mp 190-193° C.

reactant | 3-(3-Cyclopentyloxy-4-methoxy-benzyl)-8-isopropyl-hypoxanthine | 15 mmole, 5.74 g | C1(CCCC1)OC=1C=C(CN2C=NC(C=3NC(=NC23)C(C)C)=O)C=CC1OC | C21H26N4O3
reactant | phosphorus oxychloride | 60 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | chloropurine | 15 mmole | ClC1=NC=C2NC=NC2=N1 | C5H3ClN4
reactant | ammonia | 36.2 ml | N | H3N
reactant | ammonia | 50 g | N | H3N
solvent | THF | 80ml | C1CCOC1 | C4H8O
product | 6-Amino-3-(3-cyclopentyloxy-4-methoxy-benzyl)-8-isopropyl-3H-purine | NC1=C2N=C(N=C2N(C=N1)CC1=CC(=C(C=C1)OC)OC1CCCC1)C(C)C | C21H27N5O2
